US03947448
To an aqueous solution of perchloric acid, containing 200 g of said acid in 500 ml of water 40 % solution, the amount of aqueous solution of piperazine hexahydrate required for neutralization is added. The required amount of piperazine hexahydrate is 388.46 g (C4H10N2.6H2O) dissolved in 500 ml of water. Preferably the pH of the neutralizing solution is controlled to a pH close to 6. The piperazine perchlorate solution is mixed with the warm solution of p-dihydroxy benzene disulfonic acid potassium salt, and is stirred until a copious precipitate of potassium perchlorate is formed, which then increases when the solution is left to cool for several hours. After filtering off the potassium perchlorate, the solution of a piperazine p-dihydroxy benzene disulfonate is concentrated in a rotary evaporator, under vacuum, at 60°C, until crystals begin to form, and it is then left in a refrigerator. The product is filtered and recrystallized in water to give 388 g of bis (piperazine) p-dihydroxy benzene disulfonate, having a melting point of 270°C.

reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | piperazine hexahydrate | O.O.O.O.O.O.N1CCNCC1
reactant | piperazine perchlorate | Cl(=O)(=O)(=O)O.N1CCNCC1
reactant | p-dihydroxy benzene disulfonic acid potassium salt | [K+].OC1(C(C=C(C=C1)O)S(=O)(=O)[O-])S(=O)(=O)[O-].[K+]
reactant | potassium perchlorate | Cl(=O)(=O)(=O)[O-].[K+]
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | bis (piperazine) p-dihydroxy benzene disulfonate | 388 g | OC1(C(C=C(C=C1)O)S(=O)(=O)O)S(=O)(=O)O.N1CCNCC1.N1CCNCC1 | InChI=1S/C6H8O8S2.2C4H10N2/c7-4-1-2-6(8,16(12,13)14)5(3-4)15(9,10)11;2*1-2-6-4-3-5-1/h1-3,5,7-8H,(H,9,10,11)(H,12,13,14);2*5-6H,1-4H2
